US08754100B2
Synthesis of 4-(tert-butyldimethylsilyloxy)-2-(2-trifluoromethylphenyl)butyronitrile
(2-Trifluoromethylphenyl)acetonitrile (3 g) and tetrabutylammonium bisulfate (550 mg) were suspended in toluene (30 mL), and a 50% sodium hydroxide aqueous solution (15 mL) was added dropwise under ice-cooling. After stirring for 10 minutes, (2-bromoethoxy)-tert-butyldimethylsilane (5.2 mL) was added at the same temperature. The mixture was brought back to room temperature and stirred overnight. Water was added to the reaction solution, followed by extraction with tert-butyl methyl ether. The resulting organic layer was washed with brine and then dried over anhydrous sodium sulfate. The drying agent was separated by filtration, and then the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (5 g). The property values of the compound are as follows.

reactant | (2-Trifluoromethylphenyl)acetonitrile | 3 g | FC(C1=C(C=CC=C1)CC#N)(F)F | C9H6F3N
reactant | sodium hydroxide | 15 mL | [OH-].[Na+]
reactant | (2-bromoethoxy)-tert-butyldimethylsilane | 5.2 mL | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | Water | O | H2O
catalyst | tetrabutylammonium bisulfate | 550 mg | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(tert-butyldimethylsilyloxy)-2-(2-trifluoromethylphenyl)butyronitrile | 5 g | [Si](C)(C)(C(C)(C)C)OCCC(C#N)C1=C(C=CC=C1)C(F)(F)F | C17H24F3NOSi
